US07262185B2
To a solution of 2-bromopyridine (4.0 g) in dry ether (50 ml), n-butyl lithium (19.2 ml, 1.6M hexane solution) was added dropwise under argon atmosphere at −78° C. After finishing the dropping, the mixture was stirred for 1 hour, and a solution of 3-ethoxy-4-nitrobenzaldehyde (5.0 g) in dry ether (100 ml) and dry THF (50 ml) was added dropwise to the mixture. After finishing the dropping, and the mixture was allowed to be at room temperature and the mixture was stirred overnight. Water was added to the mixture, the mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate), to give (3-ethoxy-4-nitrophenyl)(2-pyridyl)methanol (3.4 g) as dark brown oil.

reactant | 2-bromopyridine | 4.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-ethoxy-4-nitrobenzaldehyde | 5.0 g | C(C)OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C9H9NO4
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | n-butyl lithium | 1.6M, 19.2 ml | C(CCC)[Li]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3-ethoxy-4-nitrophenyl)(2-pyridyl)methanol | 3.4 g | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C(O)C1=NC=CC=C1 | C14H14N2O4
